US04988698
To 5-chloroacetyl-2,3-dihydro-3,3-dimethylindol-2-one (35 g) was added pyridine (140 ml) and the mixture was stirred to 1.6 hours at 85° C. After the mixture was cooled to ambient temperature, the crystal was collected by filtration and washed with pyridine and diethyl ether successively to give 1-[2-(2,3-dihydro-3,3-dimethyl-2-oxoindol-5-yl)-2-oxoethyl]pyridinium chloride (44.6 g).

reactant | 5-chloroacetyl-2,3-dihydro-3,3-dimethylindol-2-one | 35 g | ClCC(=O)C=1C=C2C(C(NC2=CC1)=O)(C)C | C12H12ClNO2
reactant | pyridine | 140 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(2,3-dihydro-3,3-dimethyl-2-oxoindol-5-yl)-2-oxoethyl]pyridinium chloride | 44.6 g | [Cl-].CC1(C(NC2=CC=C(C=C12)C(C[N+]1=CC=CC=C1)=O)=O)C | InChI=1S/C17H16N2O2.ClH/c1-17(2)13-10-12(6-7-14(13)18-16(17)21)15(20)11-19-8-4-3-5-9-19;/h3-10H,11H2,1-2H3;1H
